US09421237B2
N-pyrazineformyl-L-phenylalanine
The product N-pyrazineformyl-L-phenylalanine methyl ester (1.0 g, 3.51 mmol) in Preparation example 2 was dissolved with 10 ml of acetone, 2N NaOH was added dropwise slowly until a pH value of 12˜13 was obtained, and the solution was kept reacting under the condition of ice water bath, the reaction was monitored by TLC and completed after 2 h. Hydrochloric acid was add dropwise under the condition of ice water bath until a pH value of 2˜3 was obtained, a large amount of white solid was produced, the generated precipitate was filtered, washed with water and diethyl ether followed by airing to dry and gave 0.89 g of white product with a yield of 93.6%, m.p.: 166-169° C. 1H-NMR (DMSO-d6, 300 MHz): δ 3.23 (—CH2, m, 2H), 4.74 (—CH, m, 1H), 7.16˜7.25 (-Ph, m, 5H), 8.74 (—CONH, t, 1H), 8.86˜8.89 (-Pyz, t, 2H), 9.14 (-Pyz, d, 1H), 13.06 (—COOH, s, 1H).

reactant | N-pyrazineformyl-L-phenylalanine methyl ester | 3.51 mmol, 1.0 g | COC([C@@H](NC(=O)C1=NC=CN=C1)CC1=CC=CC=C1)=O | C15H15N3O3
reactant | NaOH | 2N | [OH-].[Na+]
reactant | Hydrochloric acid | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-pyrazineformyl-L-phenylalanine | 0.89 g, yield of 93.6% | N1=C(C=NC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H13N3O3
